US07528129B2
18c) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-1-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-butane-1,4-dione
Prepared analogously to Example 81 from 80.0 mg (0.14 mmol) (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoic acid and 24.5 mg (0.14 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-4-oxo-butanoic acid | 0.14 mmol, 80.0 mg | NC1=C(C=C(C[C@H](C(=O)O)CC(=O)N2CCC(CC2)N2C(NC3=CC=C(C=C3C2)O)=O)C=C1C(F)(F)F)Cl | C25H26ClF3N4O5
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.14 mmol, 24.5 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (S)-2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-[4-(6-hydroxy-2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-1-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-butane-1,4-dione | NC1=C(C=C(C[C@H](C(=O)N2CCN(CC2)C2CCOCC2)CC(=O)N2CCC(CC2)N2C(NC3=CC=C(C=C3C2)O)=O)C=C1C(F)(F)F)Cl | C34H42ClF3N6O5
